US07943622B2
Step 1. Synthesis of di-tert-butyl 2-formylpiperazine-1,4-dicarboxylate
A solution of DMSO (0.54 mL, 7.66 mmol) in CH2Cl2 (1 mL) was added to a solution of oxalyl chloride (0.33 mL, 3.8 mmol) in CH2Cl2 (8 mL) at −60° C. After 5 min, a solution of di-tert-butyl 2-(hydroxymethyl)piperazine-1,4-dicarboxylate (1.10 g, 3.48 mmol) in CH2Cl2 (3 mL) was added. After 15 min, triethylamine (2.4 mL, 17 mmol) was added, and the reaction mixture was allowed to warm to rt. After 1 h, water (25 mL) was added, the organics were separated, and the aqueous layer was extracted with CH2Cl2 (3×25 mL). The combined organics were washed with brine (3×50 mL), 1% HCl (3×50 mL), water (50 mL), and 5% NaHCO3 (3×50 mL). The organics were dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was purified by column chromatography (10 to 20% EtOAc in Hexanes gradient), yielding 0.873 g (80%) of the desired product as a white solid. Rf=0.70 in 50% EtOAc/Hexane.

reactant | DMSO | 7.66 mmol, 0.54 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 3.8 mmol, 0.33 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | di-tert-butyl 2-(hydroxymethyl)piperazine-1,4-dicarboxylate | 3.48 mmol, 1.10 g | OCC1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H28N2O5
reactant | triethylamine | 17 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
solvent | water | 25 mL | O | H2O
product | di-tert-butyl 2-formylpiperazine-1,4-dicarboxylate | 0.873 g, 80% | C(=O)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H26N2O5
